* C:\Projects\git\onlab\Digital_guitar_effect\pcb\simulations\output_stage_sim\ad1939_dif.asc
V2 DAC1P 0 SINE(1.5 1.27 15k)
R1 N002 DAC1P 11k
R2 N006 DAC1N 5.62k
R3 N003 N002 3k
R4 N002 N001 20k
R5 0 N006 5.62k
R6 N006 N005 1.5k
C1 N005 0 68p
XU1 N005 N003 +9V -9V N001 OP27
C2 N001 N003 68p
C3 N002 0 270p
C5 0 N006 560p
V3 +9V 0 9
V4 -9V 0 -9
V1 DAC1N 0 SINE(1.5 1.27 15k 0 0 180)
R9 Vout 0 1Meg
R11 Vout 0 10k
C6 0 Vout 2.2n
R7 N004 N001 600
C7 Vout N004 2.2µ
.tran 1m
.lib ADI.lib
.backanno
.end
